US07696215B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 4, 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid was reacted with 3-aminoisoxazole to give 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide; NMR Spectrum: (DMSOd6) 0.02 (m, 2H), 0.37 (m, 2H), 0.77 (m, 1H), 2.08 (s, 3H), 2.13 (m, 2H), 2.51 (m, 4H), 3.19 (m, 4H), 6.95 (s, 1H), 7.38 (s, 1H), 7.52 (m, 3H), 7.96 (m, 2H), 8.03 (s, 1H), 8.76 (s, 1H), 11.36 (s, 1H); Mass Spectrum: M+H+ 485.

reactant | 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | C1(CC1)CN1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C24H26N4O3
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | C1(CC1)CN1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O | C27H28N6O3
